US09302120B2
To a solution of 117 mg (0.17 mmol) of acetic acid 4-{[(2′S,3′R,4′S,5′R)-1,1′-diacetyl-6-chloro-4′-(3-chloro-2-fluoro-phenyl)-2′-(2,2-dimethyl-propyl)-2-oxo-1,2-dihydro-spiro[indole-3,3′-pyrrolidine]-5′-carbonyl]-amino}-cyclohexyl ester in 10.0 mL of methanol under argon, was added 10 mL (81 mmol) of a saturated potassium carbonate solution. The resulting mixture was stirred at room temperature for 1 hour, upon which the methanol was evaporated under reduced pressure. The remaining aqueous phase was extracted 3 times with 20 mL of dichloromethane. The combined organic extracts were washed with 20 mL of brine, dried with magnesium sulfate and then concentrated to dryness under reduced pressure. 92 mg of (2′S,3′R,4′S,5′R)-1′-acetyl-6-chloro-4′-(3-chloro-2-fluoro-phenyl)-2′-(2,2-dimethyl-propyl)-2-oxo-1,2-dihydro-spiro[indole-3,3′-pyrrolidine]-5′-carboxylic acid (trans-4-hydroxy-cyclohexyl)-amide were obtained as a white powder. mp: 220° C. (Kofler); LC-MS: tR (min)=0.97; [M+H]+: m/z 604; [M−H]−: m/z 602 (method A); 1H NMR (60° C., CHLOROFORM-d, 400 MHz): 0.68 (s, 9H); 0.75 to 2.62 (m partially hidden, 14H); 3.51 (m, 1H); 3.65 (m, 1H); 4.28 (m broad, 1H); 4.48 (dd, J=3.4 and 5.9 Hz, 1H); 4.98 (d, J=10.3 Hz, 1H); 6.65 (d, J=1.5 Hz, 1H); 6.99 (t, J=7.8 Hz, 1H); 7.05 to 7.48 (m, 5H).

reactant | acetic acid 4-{[(2′S,3′R,4′S,5′R)-1,1′-diacetyl-6-chloro-4′-(3-chloro-2-fluoro-phenyl)-2′-(2,2-dimethyl-propyl)-2-oxo-1,2-dihydro-spiro[indole-3,3′-pyrrolidine]-5′-carbonyl]-amino}-cyclohexyl ester | 0.17 mmol, 117 mg | C(C)(=O)N1C([C@@]2([C@@H](N([C@H]([C@@H]2C2=C(C(=CC=C2)Cl)F)C(=O)NC2CCC(CC2)OC(C)=O)C(C)=O)CC(C)(C)C)C2=CC=C(C=C12)Cl)=O | C35H40Cl2FN3O6
reactant | potassium carbonate | 81 mmol, 10 mL | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10.0 mL | CO | CH4O
product | (2′S,3′R,4′S,5′R)-1′-acetyl-6-chloro-4′-(3-chloro-2-fluoro-phenyl)-2′-(2,2-dimethyl-propyl)-2-oxo-1,2-dihydro-spiro[indole-3,3′-pyrrolidine]-5′-carboxylic acid (trans-4-hydroxy-cyclohexyl)-amide | 92 mg | O[C@@H]1CC[C@H](CC1)NC(=O)[C@H]1[C@@H]([C@@]2([C@@H](N1C(C)=O)CC(C)(C)C)C(NC1=CC(=CC=C12)Cl)=O)C1=C(C(=CC=C1)Cl)F | C31H36Cl2FN3O4
